US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(2-benzoxazolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (178 mg, 0.65 mmol), tetrakis (triphenylphosphine)palladium (0) (23 mg, 0.02 mmol), 2-chlorobenzoxazole (110 mg, 0.65 mmol), 0.65 mL of 2M sodium carbonate solution and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 18 h. Additional palladium reagent (23 mg) was added, and the mixture was heated an additional 48 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (90-100% ethyl acetate/hexanes eluent) to give 45 mg (20%) of the title compound as an amorphous foam. FDMS: m/e=346.

reactant | 2-chlorobenzoxazole | 0.65 mmol, 110 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium | 23 mg | [Pd] | Pd
product | (+)-(4aR)-(10bR)-4-methyl-8-(2-benzoxazolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 45 mg, 20% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3OC1=C(N3)C=CC=C1)C)=O | C22H22N2O2
